US07910592B2
Isoamyl nitrite (96%, 59 μL, 49.9 mg, 0.426 mmol) was added to a solution of 4-methyl-6-(trifluoromethyl)pyridin-3-amine (50.0 mg, 0.284 mmol) and iodine (79.2 mg, 0.312 mmol) in CHCl3 (1 mL) at room temperature under N2. The solution was stirred for 5 min then heated at reflux for 2 h. The reaction mixture was diluted with CHCl3, washed with saturated Na2SO3, dried (MgSO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 1-5% EtOAc in hexanes gradient) to afford 5-iodo-4-methyl-2-(trifluoromethyl)pyridine. Rf=0.77 (10% EtOAc/hexanes). LCMS calc.=288.0; found=288.0 (M+1)+. 1H NMR (600 MHz, CDCl3): δ 8.96 (s, 1H); 7.54 (s, 1H); 2.50 (s, 3H).

reactant | Isoamyl nitrite | 0.426 mmol, 59 μL, 49.9 mg | N(=O)OCCC(C)C | C5H11NO2
reactant | 4-methyl-6-(trifluoromethyl)pyridin-3-amine | 0.284 mmol, 50.0 mg | CC1=C(C=NC(=C1)C(F)(F)F)N | C7H7F3N2
reactant | iodine | 0.312 mmol, 79.2 mg | II | I2
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-iodo-4-methyl-2-(trifluoromethyl)pyridine | IC=1C(=CC(=NC1)C(F)(F)F)C | C7H5F3IN
